US05516783
Triethylamine (10.5 ml, 75 mmol) was added slowly to a solution of triphosgene (3.0 g, 10 mmol) and 2-hydroxypyridine (5.7 g, 60 mmol) in dry DCM (500 ml) at 0° C. under argon. The mixture was allowed to warm to room temperature and was stirred overnight. The solvent was removed under reduced pressure and the residue taken up in ethyl acetate (500 ml), washed with saturated aqueous sodium hydrogen carbonate (2×150 ml) and brine (200 ml), dried, filtered and concentrated to give an orange oil. Crystallisation from ethyl acetate/hexane gave dipyrid-2-ylcarbonate as an off-white crystalline solid (3.70 g, 57%).

reactant | Triethylamine | 75 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 10 mmol, 3.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-hydroxypyridine | 60 mmol, 5.7 g | OC1=NC=CC=C1 | C5H5NO
reactant | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | dipyrid-2-ylcarbonate | 3.70 g, 57% | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
